US08859577B2
(E)-tert-Butyl 10-((dimethylamino)methylene)-9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate (107 g) was taken up in toluene (700 mL) and isopropyl hydrazine (44.4 g) was added. The reaction was stirred at reflux for 4 hours. The reaction was cooled to room temperature and ethyl acetate was added (500 mL). The reaction solution was washed with citric acid (2×300 mL, 10% aqueous), and water (400 mL). The organic layer concentrated in vacuo to afford tert-butyl 1-isopropyl-1,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate as a yellow solid (109 g). 1H NMR (400 MHz, CDCl3) δ ppm 7.25 (s, 1H) 6.42 (dd, J=10.05, 0.49 Hz, 1H) 5.84 (d, J=9.95 Hz, 1H) 4.42-4.52 (m, 1H) 3.36-3.53 (m, 4H) 2.62 (s, 2H) 1.56-1.68 (m, 2H) 1.45-1.55 (m, 17H).

reactant | (E)-tert-Butyl 10-((dimethylamino)methylene)-9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate | 107 g | CN(C)\C=C/1\C(C=CC2(CCN(CC2)C(=O)OC(C)(C)C)C1)=O | C18H28N2O3
reactant | isopropyl hydrazine | 44.4 g | C(C)(C)NN | C3H10N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 1-isopropyl-1,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 109 g | C(C)(C)N1N=CC=2CC3(CCN(CC3)C(=O)OC(C)(C)C)C=CC12 | C19H29N3O2
